US05414144
45 g (0.5 mole) of propylene glycol methyl ether (PM), 33 g (0.33 mole) of cyclohexene oxide and 0.3 g (0.007 mole) of sodium hydroxide were charged in a 100 ml eggplant type flask equipped with a reflux tube, and a reaction was allowed to proceed under reflux at a temperature for a reflux reaction for 10 hours. Results of the analysis of the resultant reaction mixture by GC showed that the conversion of PM was 20%. Then, the obtained reaction mixture was subjected to distillation, to thereby obtain 17 g of 2-hydroxycyclohexyloxymethoxypropane, i.e., propylene glycol methyl 2-hydroxycyclohexyl ether (hereinafter referred to as "PGMHCHE"). The IR spectrum of the product is shown in FIG. 3. Other properties of the product were measured and results are shown in Table 1.

reactant | propylene glycol methyl ether | 0.5 mole, 45 g | COCC(C)O | C4H10O2
reactant | cyclohexene oxide | 0.33 mole, 33 g | C12C(CCCC1)O2 | C6H10O
catalyst | sodium hydroxide | 0.007 mole, 0.3 g | [OH-].[Na+]
product | 2-hydroxycyclohexyloxymethoxypropane | 17 g | OC(COCOC1CCCCC1)C | C10H20O3
